US04496567
Reaction of 2-[3-(dimethylaminomethyl)benzylthio]ethylamine with an equimolar amount of 2-nitroamino-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone by heating under reflux in ethanol for 48 hours gives 2-[2-(3-(dimethylaminomethyl)benzylthio)ethylamino]-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone.

reactant | 2-[3-(dimethylaminomethyl)benzylthio]ethylamine | CN(C)CC=1C=C(CSCCN)C=CC1 | C12H20N2S
reactant | 2-nitroamino-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=C(C1)C)C | C12H13N5O3
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(3-(dimethylaminomethyl)benzylthio)ethylamino]-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone | CN(C)CC=1C=C(CSCCNC2=NC=C(C(N2)=O)CC=2C=NC(=C(C2)C)C)C=CC1 | C24H31N5OS
